US08076482B2
Preparation of intermediate E/Z-6-chloro-3-[5-chloro-4-fluoro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-fluoro-phenoxy]-2-methyl-propionic acid methyl ester (1.5 g, 3.65 mmol) in dichloromethane (20 mL) at room temperature was added di-tert-butyl-dicarbonate (2.4 g, 11 mmol), followed by the addition of 4-dimethylaminopyridine (0.15 g, 1.2 mmol). After the reaction mixture was stirred at room temperature for 2 h, the solution was concentrated and the residue was purified by flash chromatography to give the title compound as a orange solid (1.4 g).

reactant | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-fluoro-phenoxy]-2-methyl-propionic acid methyl ester | 3.65 mmol, 1.5 g | COC(C(C)(C)OC1=C(C=C(C(=C1)F)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C20H16Cl2FNO4
reactant | di-tert-butyl-dicarbonate | 11 mmol, 2.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[5-chloro-4-fluoro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=C(C(=C1)Cl)F)OC(C)(C)C(=O)OC)=O | C25H24Cl2FNO6
